US07691883B2
To a solution of 15.0 g of 3-aminobenzyl alcohol in 120 ml of tetrahydrofuran was added dropwise a solution of 18 ml of 2-methoxyethyl chloroformate in 70 ml of tetrahydrofuran under ice-cooling. After stirred for 30 minutes under ice-cooling and then at room temperature for 30 minutes, additional 2 ml of 2-methoxyethyl chloroformate was added, and the mixture was stirred at room temperature for 1 hour. After ethyl acetate was added, the mixture was washed successively with an aqueous saturated sodium bicarbonate solution and then an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated to obtain 30.2 g of 3-[(2-methoxyethoxy)carbonylamino]benzyl alcohol.

reactant | 3-aminobenzyl alcohol | 15.0 g | NC=1C=C(CO)C=CC1 | C7H9NO
reactant | 2-methoxyethyl chloroformate | 18 ml | ClC(=O)OCCOC | C4H7ClO3
reactant | 2-methoxyethyl chloroformate | 2 ml | ClC(=O)OCCOC | C4H7ClO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 3-[(2-methoxyethoxy)carbonylamino]benzyl alcohol | 30.2 g | COCCOC(=O)NC=1C=C(CO)C=CC1 | C11H15NO4
